US07153878B2
3-(2-Methyl-4-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-ethoxymethyl}-phenyl)-propionic acid
A mixture of 1-[4-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-ethanol (0.132 g, 0.487 mmol), sodium hydride (0.05 g, 1.25 mmol) and N,N-dimethyl formamide (5 mL) is stirred at room temperature. 3-(4-Iodomethyl-2-methyl-phenyl)-propionic acid methyl ester (0.17 g, 0.535 mmol) is added and the mixture is heated to 65 deg C., 2 hr. The reaction is cooled to room temperature and diluted with aqueous sodium hydroxide (10 mL, 5M) and stirred 1 hr. The pH is adjusted with aqueous hydrochloric acid until pH is 2–3. The product is extracted into ethyl acetate (3×25 mL). The combined extracts are dried over anhydrous magnesium sulfate, filtered and concentrated. The residue is purified via silica chromatography eluting with 7:3 hexanes:ethyl acetate to 1:1 hexanes:ethyl acetate to afford the title compound as a white solid, 0.027 g, 12%. MS M++1 448. The structure is confirmed by 1H NMR spectroscopy.

reactant | 1-[4-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-ethanol | 0.487 mmol, 0.132 g | CC=1N=C(OC1C(C)O)C1=CC=C(C=C1)C(F)(F)F | C13H12F3NO2
reactant | sodium hydride | 1.25 mmol, 0.05 g | [H-].[Na+]
reactant | 3-(4-Iodomethyl-2-methyl-phenyl)-propionic acid methyl ester | 0.535 mmol, 0.17 g | COC(CCC1=C(C=C(C=C1)CI)C)=O | C12H15IO2
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 5M, 10 mL | [OH-].[Na+]
solvent | N,N-dimethyl formamide | 5 mL | CN(C=O)C | C3H7NO
product | 3-(2-Methyl-4-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-ethoxymethyl}-phenyl)-propionic acid | CC1=C(C=CC(=C1)COC(C)C1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)C)CCC(=O)O | C24H24F3NO4
